US09334245B2
A. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid (R4=H; R7=H)
1,2,3-Triazole-4-carboxylic acid (130 mg, 1.2 mmol, 1.2 eq.) and HATU (400 mg, 1.1 mmol, 1.1 eq.) were dissolved in DIPEA (167 μL) and the resulting mixture was stirred for 5 minutes at room temperature in DMF (0.2 mL). DIPEA (3 eq.) and (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid (300 mg, 957 μmol, 1.0 eq.) dissolved in DMF (0.2 mL) was added, and the resulting mixture was stirred for 15 minutes. The reaction was quenched with AcOH and the product was purified by preparative HPLC then lyophilized to yield the title compound (120 mg, 95% purity). MS m/z [M+H]+ calc'd for C22H24N4O4, 409.18. found 409.4.

reactant | 1,2,3-Triazole-4-carboxylic acid | 1.2 mmol, 130 mg, 1.2 eq. | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | HATU | 1.1 mmol, 400 mg, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid | 957 μmol, 300 mg, 1.0 eq. | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=CC=CC=C1 | C19H23NO3
solvent | DIPEA | 167 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DIPEA | 3 eq. | CCN(C(C)C)C(C)C | C8H19N
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid | 120 mg, 95% | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)C=1NN=NC1)C1=CC=CC=C1 | C22H24N4O4
